data/nitro/train.csv
rxn,smiles,ea
32,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[c:22]1[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]1[H:32])([C:33]([H:34])([H:35])[H:36])[C:37]([H:38])([H:39])[H:40]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[c:22]1[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]1[H:32])([C:33]([H:34])([H:35])[H:36])[C:37]([H:38])([H:39])[H:40],-6.736660588637402
717,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[H:24])(\[c:25]1[c:26]([H:27])[c:28]([H:29])[c:30]([H:31])[c:32]([H:33])[c:34]1[H:35])[Br:36]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[H:24])([c:25]1[c:26]([H:27])[c:28]([H:29])[c:30]([H:31])[c:32]([H:33])[c:34]1[H:35])[Br:36],-11.078089277087184
597,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[H:24])(\[Br:25])[H:26]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[H:24])([Br:25])[H:26],-16.879646542670404
936,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[Cl:22])(\[H:23])[c:24]1[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]([H:32])[c:33]1[H:34]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[Cl:22])([H:23])[c:24]1[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]([H:32])[c:33]1[H:34],-7.63513932118744
29,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[c:24]1[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]([H:32])[c:33]1[H:34])([C:35]([H:36])([H:37])[H:38])[C:39]([H:40])([H:41])[H:42]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[c:24]1[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]([H:32])[c:33]1[H:34])([C:35]([H:36])([H:37])[H:38])[C:39]([H:40])([H:41])[H:42],-8.989649896212589
402,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[H:11])[C:12]([H:13])([H:14])[H:15])(\[Br:16])[C:17]([H:18])([H:19])[H:20]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[C:12]([H:13])([H:14])[H:15])([Br:16])[C:17]([H:18])([H:19])[H:20],-11.9811758115577
399,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[H:16])(\[Cl:17])[H:18]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[H:16])([Cl:17])[H:18],-8.812319483953976
767,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])(\[c:20]1[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]1[H:30])[H:31]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])([c:20]1[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]1[H:30])[H:31],-5.065937949396425
490,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[H:11])[Cl:12])([Br:13])[Br:14]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[Cl:12])([Br:13])[Br:14],-11.579663874637331
754,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[H:11])[H:12])([c:13]1[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]([H:21])[c:22]1[H:23])[c:24]1[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]([H:32])[c:33]1[H:34]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[H:12])([c:13]1[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]([H:21])[c:22]1[H:23])[c:24]1[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]([H:32])[c:33]1[H:34],-5.999484421430497
871,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[c:16]1[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]([H:24])[c:25]1[H:26])(\[H:27])[Cl:28]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[c:16]1[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]([H:24])[c:25]1[H:26])([H:27])[Cl:28],-11.26560542306096
